US06177440B1
40% Methanolic Triton B (0.45 mL, 0.99 mM) was added to a solution of the 9-[(2-methylphenyl)methyl]-4-hydroxy-5-carbamoyl carbazole (80 mg, 0.24 mM) in 8 mL DMF at room temperature. After 3 minutes, methyl bromoacetate (115 mg, 0.72 mM) was added and the resultant mixture stirred at room temperature for 48 hours. The mixture was diluted with ethyl acetate, washed with H2O, 1 N HCl, H2O, and saturated brine, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (elution with ethyl acetate) to afford 80 mg (82%) of the {9-[(2-methylphenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester as a white solid. 1H NMR (DMSO-d6) δ 7.56 (br s, 1H), 7.5-7.1 (m, 9H), 6.9 (t, 1H, J=8 Hz), 6.6 (d, 1H, J=8 Hz), 5.65 (s, 2H), 4.9 (s, 2H), 3.8 (s, 3H), and 2.5 (s, 3H). IR (KBr, cm−1) 3367, 3153, 1760, 1740, 1672, 1644, 1619, 1591, 1578, 1498, 1456, 1425, 1327, 1200, 1153, 1109, 1100, and 777. MS (FD) m/e 402.

reactant | 9-[(2-methylphenyl)methyl]-4-hydroxy-5-carbamoyl carbazole | 0.24 mM, 80 mg | CC1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(N)=O | C21H18N2O2
reactant | methyl bromoacetate | 0.72 mM, 115 mg | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {9-[(2-methylphenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester | 80 mg, 82% | CC1=C(C=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)OC)C(N)=O | C24H22N2O4
